US09023865B2
(E)-6-chloro-3-(3-methoxyprop-1-en-1-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridine (111 mg, 0.239 mmol), (R)-1-(1-phenylethyl)urea (59 mg, 0.359 mmol), Cs2CO3 (194 mg, 0.597 mmol), BrettPhos precatalyst (19.06 mg, 0.024 mmol) and DMA (1.5 ml). The mixture was evacuated and purged with nitrogen six times and heated at 100° C. for 35 min. The mixture was diluted with EtOAc and washed with water, brine, dried (Na2SO4) and concentrated to afford crude (R,E)-1-(3-(3-methoxyprop-1-en-1-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea, which was used in the next step. MS ESI calc'd. for C38H36N5O2 [M+H]+ 594, found 594.

reactant | (E)-6-chloro-3-(3-methoxyprop-1-en-1-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.239 mmol, 111 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=C\COC | C29H24ClN3O
reactant | (R)-1-(1-phenylethyl)urea | 0.359 mmol, 59 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | Cs2CO3 | 0.597 mmol, 194 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | BrettPhos precatalyst | 0.024 mmol, 19.06 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | DMA | 1.5 ml | CC(=O)N(C)C | C4H9NO
product | (R,E)-1-(3-(3-methoxyprop-1-en-1-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | COC/C=C/C1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H35N5O2
